US04593090
A solution of β-phenylethyl 6-(1-methyl-2-methoxyethylamino)-6-deoxy-α-D-altropyranoside (6.65 g, 18.7 mmol) in a mixture of methanol (30 ml), dioxane (20 ml), and benzene (10 ml) was dropped into a solution of p-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate (5.64 g, 20.6 mmol) in a mixture of acetone (50 ml) and isopropyl ether (20 ml) with well stirring at 0° to 5° C. spending 5 minutes, and reaction was continued for further 2 hours at the same temperature. After confirmation by TLC that the reaction was finished, the reaction mixture was vacuum-concentrated at 25° C. and fractionated by column chromatography (packing: Kiesel gel 60; eluent: chloroform→chloroform/methanol 39:1) to separate the objective product of α-form. The objective fractionated solution was vacuum-concentrated at 25° C. and crystallized from methanol and water, giving 6.03 g of 3-(1-methyl-2-methoxyethyl)-3-(β-phenylethyl α-D-altropyranose-6-yl)-1-(2-chloroethyl)-1 -nitrosourea; yield 65.8%, m.p. 55°-57° C., [α]D20 +17.8° (C 1.0, methanol).

reactant | β-phenylethyl 6-(1-methyl-2-methoxyethylamino)-6-deoxy-α-D-altropyranoside | 18.7 mmol, 6.65 g | CC(COC)NC[C@@H]1[C@H]([C@H]([C@@H]([C@@H](OCCC2=CC=CC=C2)O1)O)O)O | C18H29NO6
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | p-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate | 20.6 mmol, 5.64 g | ClCCN(C(OC1=CC=C(C=C1)[N+](=O)[O-])=O)N=O | C9H8ClN3O5
reactant | methanol | 30 ml | CO | CH4O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | isopropyl ether | 20 ml | C(C)(C)OC(C)C | C6H14O
product | 3-(1-methyl-2-methoxyethyl)-3-(β-phenylethyl α-D-altropyranose-6-yl)-1-(2-chloroethyl)-1 -nitrosourea | 6.03 g, yield 65.8% | CC(COC)N(C(N(N=O)CCCl)=O)C([C@@H]1[C@H]([C@H]([C@@H]([C@@](O)(O1)CCC1=CC=CC=C1)O)O)O)O | C21H32ClN3O9
